Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ with stage IIC ovarian cancer s/p 
TAH/BSO on chemotherapy (last session ___ who presented to the 
Emergency Department with abdominal pain. 

The pain started 2 days ago with intermittent, cramping, 
periumbilical pain, ___ at its worse, non-radiated, exacerbated 
when pressed on, no known alleviating factors. It has led to a 
loss in sleep. She has used oxycodone to try to achieve relief. 
No objective fevers, chills. She does endorse history of and 
recent constipation. Last BM was yesterday but it was "hard, 
pellets." She is currently on colace, senna and miralax. Denies 
nausea, vomiting, diarrhea. 

In the ED:
Initial vitals:  98.5 100 126/85 16 96% ra 
Transfer vitals:  98.0 90 114/82 18 98% RA 
Meds: hydromorphone 1mg IV x3, toradol 30mg x1, 
methylnaltrexone, lactulose, 
Fluids: 1L NS
Access: port
Studies: CT abd/pelv - large fecal load (see below)
Labs: WBC 17 (after neulasta), urine cx pending
 
Review of Systems:  
(+) Per HPI.
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, nausea, vomiting, diarrhea, BRBPR, melena, 
hematochezia, dysuria, hematuria. 

 
Past Medical History:
___, pt presented at ___ with acute RLQ 
abdominal pain. CT there was notable for 6.3 cm right ovarian 
cyst.  
___, she had a right ovarian laparoscopic cystectomy, 6-7 cm 
cyst removed with intra-operative rupture, by report there was 
no ovarian surface involvement by tumor. ___ path review of it 
showed high grade serous carcinoma. 
___, pt was taken to OR by Dr. ___ a laparoscopy 
converted to laparotomy with TAH/BSO, pelvic tumor resection, 
total pelvic lymphadenectomy, para-aortic LN resection, 
infracolic omemtectomy, peritoneal biopsies was performed. 
Post-op she was noted to have tachycardia to 130 bpm with normal 
blood pressures and oxygen saturation. CTA chest demonstrated no 
evidence of cardiopulmonary process. Her symptoms eventually 
resolved and did not recur.  She also had a fever, but 
infectious w/u was negative and she defervesced spontaneously. 
She was discharged on ___.  Path showed ovarian serous 
carcinoma, no positive LNs, right pelvic sidewall positive for 
carcinoma, grade 3, with positive washings, thus staged as IIc. 
___, poc placed
___, C1D1 ___ initiated, but pt had a reaction 14 
minutes into the Taxol infusion and was sent to ED for chest 
pain that did not resolve in the clinic 
___, C1D1 ___
___ Pt admitted to ___ for weakness
___ Pt in ED for observation (weakness)
___ Pt in ED for observation (chest pain)
___ - Pt in ED for observation (weakness)

PAST MEDICAL HISTORY:  
DEPRESSION 
HEADACHE 
IRRITABLE BOWEL SYNDROME 
OSTEOPOROSIS 
*S/P WRIST SURGERY 
CONNECTIVE TISSUE DISORDER 
RAYNAUD'S SYNDROME 
OSTEOPENIA 
___ 
PHARYNGITIS 
? LICHEN SCLEROSUS 
UTERINE FIBROIDS 
OVARIAN CANCER 
H/O ENCEPHALITIS 
H/O OVARIAN CYST 
H/O R FOOT FRACTURE   
 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal 
great uncle had colon cancer. Mother and grandfather have high 
blood pressure. Mother has DM, and father has psoriasis. She 
otherwise denies a family history of ovarian, uterine, cervical 
or vaginal cancer.
 
Physical Exam:
PHYSICAL EXAM on discharge:
VITALS - 98.2   100/60     78   16   100%RA
General: complaining of mild abdominal discomfort
HEENT: moist MM
Lymph: supple, no cervical LAD
CV: Normal rate regular rhythm
Lungs: CTAB, no wheezes, or crackles
GI: Soft, mild TTP in the central abdomen. Scar midline, well 
healed. NABS. No guarding or rebound.
Rectal: no stool 
Ext: warm well perfused
Neuro: No gross deficits
Skin: macular hypopigmentation on the face, ankle tattoo, no 
rashes 

 
Pertinent Results:
==================================
              Labs
==================================
___ 06:00PM BLOOD WBC-17.7*# RBC-3.05* Hgb-8.9* Hct-25.5* 
MCV-84 MCH-29.2 MCHC-34.9 RDW-22.2* Plt ___
___ 06:00PM BLOOD Neuts-92.8* Lymphs-5.3* Monos-1.7* 
Eos-0.1 Baso-0.1
___ 06:00PM BLOOD Glucose-92 UreaN-15 Creat-0.7 Na-139 
K-3.4 Cl-99 HCO3-29 AnGap-14
___ 06:00PM BLOOD ALT-14 AST-19 AlkPhos-132* TotBili-0.3
___ 06:00PM BLOOD Albumin-4.5
___ 06:00PM BLOOD Lipase-25
___ 06:15AM BLOOD WBC-4.8 RBC-2.77* Hgb-8.2* Hct-23.9* 
MCV-87 MCH-29.7 MCHC-34.3 RDW-21.6* Plt ___
___ 06:15AM BLOOD Glucose-96 UreaN-7 Creat-0.6 Na-139 K-3.6 
Cl-99 HCO3-34* AnGap-10
___ 06:00PM BLOOD ALT-14 AST-19 AlkPhos-132* TotBili-0.3
___ 05:54AM BLOOD Calcium-8.7 Phos-3.8 Mg-1.5*

==================================
            Radiology            
==================================
CT abd/pelvis ___
IMPRESSION:
1. Extensive colonic fecal loading without evidence of acute 
infectious or
inflammatory abdominal or pelvic process.
2. Two simple fluid collections at the site of prior lymph node 
dissection in the retroperitoneal and left pelvic sidewall 
stations.  These may represent postoperative seromas or 
lymphoceles, however given the patient's history of cystic 
malignancy, close oncologic imaging follow up is recommended.

 
Brief Hospital Course:
___ year old female with a history of ovarian cancer presenting 
with abdominal pain. She was found to have a large amount of 
fecal loading on CT scan with history of IBS and opiate 
sensitive constipation. Her constipation is likely exacerbated 
by ondansetron and home oxycodone. Given methylnaltrexone and 
lactulose in the ED. After admission she was given a bowel 
regimen comprising Miralax, lactulose, senna, colace PO and PR, 
Fleet's enema. She had up to 5 loose bowel movements daily on 
this regimen but continued to complain of feeling fullness. 
There was some concern that she may have overflow diarrhea so a 
rectal exam was performed that showed no stool in the vault. Her 
bowel regimen also resulted in some anal skin tenderness which 
was relieved with barrier cream. Her CT scan also showed some 
fluid collections in the area of her surgery. While these could 
represent post op seroma, follow-up imaging was suggested given 
her history of ovarian cancer. She was discharged home in good 
condition with instructions to tailor her bowel regimen such 
that she has at least 1 bowel movement per day.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO HS 
2. Dexamethasone 4 mg PO Q12H 
3. Duloxetine 90 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN mucositis 
6. Loratadine 10 mg PO DAILY 
7. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Ondansetron 8 mg PO Q8H:PRN nausea 
11. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
12. Neulasta (pegfilgrastim) 6 mg/0.6mL Subcutaneous x1 
13. Polyethylene Glycol 17 g PO DAILY 
14. Docusate Sodium 100 mg PO BID 
15. Senna 1 TAB PO BID:PRN constipation 
16. Prochlorperazine 10 mg PO Q6H:PRN nausea 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS 
2. Docusate Sodium 100 mg PO BID 
3. Duloxetine 90 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Loratadine 10 mg PO DAILY 
6. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
7. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN mucositis 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
11. Polyethylene Glycol 17 g PO DAILY 
12. Prochlorperazine 10 mg PO Q6H:PRN nausea 
13. Senna 1 TAB PO BID:PRN constipation 
14. Bisacodyl 10 mg PO/PR DAILY 
RX *bisacodyl 5 mg 2 tablet,delayed release (___) by mouth 
daily Disp #*60 Tablet Refills:*0
15. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
16. Lactulose 30 mL PO DAILY 
RX *lactulose 20 gram/30 mL 30 mL by mouth daily Disp #*1 Bottle 
Refills:*1
17. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain from constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain. You had a 
CT scan which did not show any major problems but did show 
significant constipation, which is the likely cause of your 
discomfort. The constipation is due to a combination of your 
pain medications and antinausea medicines given with chemo. You 
had an aggressive bowel regimen here consisting of senna, 
colace, miralax, lactulose, dulcolax, and Fleet's enemas. With 
this you had multiple bowel movements. You should continue to 
use these medications such that you have at least one bowel 
movement daily. 
 
Followup Instructions:
___